US07842688B2
b) tert-Butyl 3-hydroxy-4-{4-[4-(2-methoxyphenoxy)butoxy]phenyl}piperidine-1-carboxylate
Analogously to Method F, 5.86 g of tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidin-1-carboxylate and 6.33 g of 1-(4-bromobutoxy)-2-methoxybenzene are reacted. The title compound is obtained as a solid. Rf=0.12 (1:2 EtOAc-heptane); Rt=5.15.

reactant | tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidin-1-carboxylate | 5.86 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 1-(4-bromobutoxy)-2-methoxybenzene | 6.33 g | BrCCCCOC1=C(C=CC=C1)OC | C11H15BrO2
product | tert-Butyl 3-hydroxy-4-{4-[4-(2-methoxyphenoxy)butoxy]phenyl}piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCCOC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
